US07906537B2
(3-Methyl-4-nitrophenyl)-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester
A solution of (3-methyl-4-nitrophenyl)-(4-trifluoromethylbenzyl)-amine (1.02 g, 3.29 mmol), di-tert-butyl dicarbonate (1.08 g, 4.93 mmol), dimethylaminopyridine (201 mg, 1.64 mmol), and triethylamine (687 μL, 4.93 mmol) in acetonitrile (20 mL) was stirred at room temperature for 18 hours in an open flask (to allow carbon dioxide to escape). Volatiles were evaporated and the residue was dissolved in ethyl acetate (50 mL). This solution was washed with sat. ammonium chloride (2×50 mL), dried over sodium sulfate, volatiles were evaporated, and the residue was purified on a FlashMaster system (silica, eluted with heptane/ethyl acetate mixtures) to yield the title compound as a pale yellow, viscous oil (1.17 g, 86%), which retained traces of heptane.

reactant | (3-methyl-4-nitrophenyl)-(4-trifluoromethylbenzyl)-amine | 3.29 mmol, 1.02 g | CC=1C=C(C=CC1[N+](=O)[O-])NCC1=CC=C(C=C1)C(F)(F)F | C15H13F3N2O2
reactant | di-tert-butyl dicarbonate | 4.93 mmol, 1.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 1.64 mmol, 201 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 4.93 mmol, 687 μL | C(C)N(CC)CC | C6H15N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (3-Methyl-4-nitrophenyl)-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C20H21F3N2O4
